Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea/Diminished exercise tolerance
 
Major Surgical or Invasive Procedure:
___ Coronary artery bypass graft x 4
Left internal mammary artery grafted to left anterior descending 
artery/ saphenous vein grafted to ramus intermedius/ PLV
 
History of Present Illness:
This is a ___ year old male who has noted gradual decline in 
exercise tolerance in the setting of hypertension, 
hyperlipidemia and bradycardia. He complains of dyspnea with 
moderate exertion and first nted these symptoms with playing 
tennis. His dyspnea improves with rest. He denies chest pain, 
palpitations, lightheadedness, syncope, orthopnea, PND and pedal 
edema. He continues to exercise on a regular basis. A stress 
echo was performed which was normal however a cardiac CT scan 
showed his calcium score to be very high at 3962. He was 
subsequently sent for a cardiac catheterization which revealed 
severe three vessel disease. Given the severity of his disease, 
he was referred for surgical management.
 
Past Medical History:
Hypertensin
Dyslipidemia
First Degree AV Block with Bradycardia
Prostate Cancer
Prostatectomy
Spine Surgery
Hernia Repair
Right rotator cuff repair
Bilateral Inguinal hernia repair
Deviated Septum Repair
 
Social History:
___
Family History:
Mother sudden death at age ___. Father died at age ___. Has 3 
brothers, 2 sisters - one sibling diagnosed with CAD.
 
Physical Exam:
Vital Signs sheet entries for ___:
BP: (L) 130/78. (R) 134/80 Heart Rate: 70. Resp. Rate: 16. Pain
Score: 0. O2 Saturation%: 99.

Height: 65"     Weight: 163

General: WDWN in NAD
Skin: Warm, Dry and intact. 
HEENT: NCAT, PERRLA, EOMI, sclera anicteric, OP benign. Teeth in 
good repair. 
Neck:  Supple [X] Full ROM [X]
Chest: Lungs clear bilaterally [X]
Heart: RRR, No M/R/G
Abdomen: Soft [X] non-distended [X] non-tender [X]  bowel sounds 
+[X]
Extremities: Warm [X], well-perfused [X]  No edema
Varicosities: Rith thigh and lower leg with superficial
varicosities. Left leg appears suitable. 
Neuro: Grossly intact [X]
Pulses:
Femoral      Right:2   Left:2
DP           Right:2   Left:2
___           Right:2   Left:2
Radial       Right:2   Left:2

Carotid Bruit        None
 
Pertinent Results:
___ Echo: PRE_BYPASS The left atrium is normal in size. No 
spontaneous echo contrast or thrombus is seen in the body of the 
left atrium/left atrial appendage or the body of the right 
atrium/right atrial appendage. No atrial septal defect is seen 
by 2D or color Doppler. There is mild symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. 
Regional left ventricular wall motion is normal. Overall left 
ventricular systolic function is normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. There are 
complex (>4mm) atheroma in the aortic arch. There are simple 
atheroma in the descending thoracic aorta. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. There is no pericardial effusion. Dr. 
___ was notified in person of the results in the operating 
room at the time of the study.
POST-BYPASS The patient is AV paced. There is normal 
biventricular systolic function. The mitral regurgitation was 
initially somewhat worse after separation from bypass (mild to 
moderate) but decreased back to mild later on. The rest of 
valvular function was unchanged. The thoracic aorta was intact 
after decannulation.
___ 04:57AM BLOOD WBC-12.5* RBC-3.80* Hgb-11.0* Hct-33.5* 
MCV-88 MCH-28.8 MCHC-32.7 RDW-13.4 Plt ___
___ 02:12PM BLOOD WBC-13.6*# RBC-3.50*# Hgb-10.0*# 
Hct-30.6*# MCV-87 MCH-28.7 MCHC-32.9 RDW-12.9 Plt ___
___ 04:57AM BLOOD ___
___ 02:12PM BLOOD ___ PTT-27.0 ___
___ 04:57AM BLOOD Glucose-93 UreaN-21* Creat-1.0 Na-138 
K-4.1 Cl-104 HCO3-27 AnGap-11
___ 03:30PM BLOOD UreaN-17 Creat-0.8 Na-143 K-3.5 Cl-110* 
HCO3-23 AnGap-14
___ 04:29AM BLOOD ALT-13 AST-46* LD(LDH)-226 AlkPhos-79 
Amylase-51 TotBili-0.6
 
Brief Hospital Course:
Mr. ___ was a same day admit and brought directly to the 
operating room where he underwent a coronary artery bypass graft 
x 4 (Left internal mammary artery graft to left anterior 
descending, reverse saphenous vein graft to the posterior
left ventricular branch, ramus intermedius, diagonal branch) 
with ___. Please see operative note for surgical details. 
Following surgery he was transferred to the CVICU for invasive 
monitoring in stable condition. Later this day he was weaned 
from sedation, awoke neurologically intact and extubated. 
Beta-blockers, Statin, aspirin, and diuresis was initiated. 
Post-operatively he developed an ileus, which resolved with an 
aggresive bowel regimen. POD#1  He was transferred to the 
surgical step down floor for further monitoring. His chest tubes 
and wires were removed.  Physical therapy was consulted for 
evaluation of strength and mobility. ___ had failure to 
void x 2. The foley catheter was reinserted and  urology was 
consulted. He had some postoperative hypoxia that improved with 
diuresis and increased ambulation. POD#6 he had a brief episode 
of postoperative atrial fibrillation that resolved with 
beta-blocker and electrolyte replacement. No further episodes 
occurred.  By post-operative day #7 he was ready for discharge 
to home with a leg bag and ___ services.  Appropriate follow-up 
appointments were advised.
 
Medications on Admission:
Norvasc 5mg daily
Aspirin 81mg daily
Renexa 500mg twice daily
Lipitor 80mg daily
Fish Oil 1000mg twice daily
MVI
Glucosamine
Aleve 220mg QHS
 
Discharge Medications:
1. omega-3 fatty acids     Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
2. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*80 Tablet(s)* Refills:*2*
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. ranitidine HCl 150 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
5. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
6. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
7. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
8. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).
Disp:*60 Capsule, Ext Release 24 hr(s)* Refills:*2*
9. ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*
10. furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
for 10 days.
Disp:*10 Tablet(s)* Refills:*0*
11. potassium chloride 10 mEq Capsule, Extended Release Sig: One 
(1) Capsule, Extended Release PO once a day for 10 days.
Disp:*10 Capsule, Extended Release(s)* Refills:*0*
12. metoprolol tartrate 25 mg Tablet Sig: Three (3) Tablet PO 
BID (2 times a day).
Disp:*180 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Corornary artery disease s/p Coronary artery bypass graft x 4
Past medical history:
Hypertensin
Dyslipidemia
First Degree AV Block with Bradycardia
Prostate Cancer
Prostatectomy
Spine Surgery
Hernia Repair
Right rotator cuff repair
Bilateral Inguinal hernia repair
Deviated Septum Repair
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesia
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Right/Left - healing well, no erythema or drainage.
Edema trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___